US07754759B2
(R)-[(7-benzenesulfonyl-chroman-2-ylmethyl)-amino]-acetic acid methyl ester (40 mg, 1 mmol) was dissolved in 2 mL dry THF under Ar atmosphere. LAH (0.25 mL of 1M solution in THF) was added dropwise, and the reaction mixture was stirred for one hour. The reaction was quenched by addition of aqueous sodium sulfate solution. The mixture was extracted with methylene chloride and the combined organic layers were washed with water and brine, dried (Na2SO4), filtered and contrated under reduced pressure. The residue was recrystallized from diethyl ether and 1 M HCl in EtOH to give 32.2 mg of (R)-2-[(7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amino]-ethanol as a hydrochloride, MS (M+H)=362.

reactant | (R)-[(7-benzenesulfonyl-chroman-2-ylmethyl)-amino]-acetic acid methyl ester | 1 mmol, 40 mg | COC(CNC[C@@H]1OC2=CC(=CC=C2CC1)S(=O)(=O)C1=CC=CC=C1)=O | C19H21NO5S
reactant | LAH | 1M, 0.25 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-2-[(7-Benzenesulfonyl-chroman-2-ylmethyl)-methyl-amino]-ethanol | 32.2 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN(CCO)C | C19H23NO4S
